US06951879B2
7.4 g (23.17 mmol) 3-(4-Bromo-phenyl)-6-methoxy-benzo[b]thiophene in 47 ml acetic acid were treated with 27 ml (62% aq) HBr at 125° C. for 4 h. The solution was concentrated in vacuo and the residue was dissolved in NaHCO3 and EtOAc. Prior to extraction with EtOAc the pH was adjusted with 2M NaOH (pH 8). The combined organic phases were washed with brine and dried with Na2SO4. Trituration with hexane gave 6.96 g (98%) 3-(4-Bromo-phenyl)-benzo[b]thiophen-6-ol as light green solid, MS: 304 (M, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-methoxy-benzo[b]thiophene | 23.17 mmol, 7.4 g | BrC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OC | C15H11BrOS
reactant | HBr | 27 ml | Br | BrH
solvent | acetic acid | 47 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Bromo-phenyl)-benzo[b]thiophen-6-ol | 6.96 g, 98% | BrC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)O | C14H9BrOS
